US08383821B2
(R)-3′-(1-((1-Methyl-4-phenylpiperidin-4-yl)methoxy)ethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile.
(R)-tert-Butyl 4-((1-(4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate (300 mg, 0.53 mmol) was treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 6 mL) for 1 h. The solvent was removed in vacuo and the resulting crude product dissolved in acetonitrile (5 mL), cooled to 0° C. and treated with formaldehyde (37 wt. % solution in water, 1.1 mL). The reaction was treated with sodium cyanoborohydride (163 mg, 2.58 mmol) and a few drops of acetic acid. The reaction was stirred at 0° C. for 30 min and at room temperature for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvents were evaporated to afford 222 mg (73%). 1H-NMR (CDCl3, 300 MHz) δ 7.71 (s, 1H), 7.68 (s, 1H), 7.62 (s, 1H), 7.53 (s, 1H), 7.51 (s, 1H), 7.21-7.35 (m, 6H), 7.09-7.14 (m, 1H), 4.27 (q, J=6.6 Hz, 1H), 3.29 (d, J=9.2 Hz, 1H), 3.24 (d, J=8.8 Hz, 1H), 2.50-2.57 (m, 2H), 2.15 (s, 3H), 1.93-2.22 (m, 6H), 1.32 (m, 3H); 13C-NMR (CDCl3, 76 MHz) δ 146.5, 149.8, 140.0, 132.6, 131.4 (d, J=32.2 Hz), 128.0, 127.8, 127.7, 125.9, 123.8 (q, J=272.4 Hz), 122.8, 122.7, 122.0, 118.5, 111.6, 51.8, 50.2, 46.1, 40.1, 32.3, 31.9, 23.9. Mass spec.: 479.19 (MH)+.

reactant | (R)-tert-Butyl 4-((1-(4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.53 mmol, 300 mg | C(#N)C1=CC=C(C=C1)C1=CC(=CC(=C1)C(F)(F)F)[C@@H](C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C33H35F3N2O3
reactant | trifluoroacetic acid methylene chloride | 6 mL | FC(C(=O)O)(F)F.C(Cl)Cl
reactant | sodium cyanoborohydride | 2.58 mmol, 163 mg | C(#N)[BH3-].[Na+]
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | (R)-3′-(1-((1-Methyl-4-phenylpiperidin-4-yl)methoxy)ethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | CN1CCC(CC1)(C1=CC=CC=C1)CO[C@H](C)C=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C29H29F3N2O
